US04341775
7-[2-(2-Formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-(5-tert-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 3.7 g.), conc. hydrochloric acid (2.9 g.) and methanol (50 ml.) were treated in a similar manner to that of Example 8-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid trihydrochloride (syn isomer, 2.9 g.).

reactant | 7-[2-(2-Formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-(5-tert-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C29H37N9O10S4
reactant | hydrochloric acid | 2.9 g | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid trihydrochloride | 2.9 g | Cl.Cl.Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CN)C(=O)O)C1=O)=NOCCN | InChI=1S/C18H21N9O5S4.3ClH/c19-1-2-32-26-10(8-6-34-17(21)22-8)13(28)23-11-14(29)27-12(16(30)31)7(4-33-15(11)27)5-35-18-25-24-9(3-20)36-18;;;/h6,11,15H,1-5,19-20H2,(H2,21,22)(H,23,28)(H,30,31);3*1H/t11?,15-;;;/m1.../s1
